US07799799B2
a) 2-methyl-1-(2-oxo-hexyl)-pyridinium bromide
30.21 g of 2-picoline (0.32 mole) was slowly added to 83 g of 1-bromo-2-hexanone (0.46 mole) and stirred for 4 hours at ambient temperature. A viscous medium was obtained which was used as is for the next step.

reactant | 2-picoline | 0.32 mole, 30.21 g | N1=C(C=CC=C1)C | C6H7N
reactant | 1-bromo-2-hexanone | 0.46 mole, 83 g | BrCC(CCCC)=O | C6H11BrO
product | 2-methyl-1-(2-oxo-hexyl)-pyridinium bromide | [Br-].CC1=[N+](C=CC=C1)CC(CCCC)=O | InChI=1S/C12H18NO.BrH/c1-3-4-8-12(14)10-13-9-6-5-7-11(13)2;/h5-7,9H,3-4,8,10H2,1-2H3;1H/q+1;/p-1
